Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
captopril
 
Attending: ___.
 
Chief Complaint:
left hip pain
 
Major Surgical or Invasive Procedure:
___: Left hip hemiarthroplasty (press-fit)

 
History of Present Illness:
___ ___ speaking, sustained a trip and fall at 3am
going to bathroom, landing on L hip. Had immediate pain and
inability to weightbear on LLE. No HS, no LOC. No pain anywhere
else. Taken to ___ where workup revealed L 
femoral
neck fx. Closed, isolated injury, NVI. Transferred to ___ for
definitive management. 
 
Past Medical History:
HTN, HLD, IDDM, GERD, renal cyst (stable), CKD (baseline Cr
1.6-2.0)
 
Social History:
___
Family History:
NC
 
Physical Exam:
VSS, NAD, A&O
LLE: incision clean/dry/intact
___ +
SPN/DPN/S/S/TN SILT
TP/DP 1+
 
Pertinent Results:
___ 07:50AM BLOOD WBC-13.0* RBC-3.19* Hgb-9.3* Hct-28.3* 
MCV-89 MCH-29.2 MCHC-32.9 RDW-13.6 Plt ___
___ 06:30PM BLOOD Glucose-144* UreaN-36* Creat-1.7* Na-136 
K-4.2 Cl-104 HCO3-27 AnGap-9
___ 06:30PM BLOOD Calcium-8.1* Phos-3.8 Mg-1.9
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have a left hip femoral neck fracture and was admitted to the 
orthopedic surgery service. Medicine was consulted for 
preoperative clearance and felt that she was safe to proceed 
with surgery. The patient was taken to the operating room on 
___ for left hip hemiarthroplasty, which the patient 
tolerated well (for full details please see the separately 
dictated operative report). The patient was taken from the OR to 
the PACU in stable condition and after recovery from anesthesia 
was transferred to the floor.  The patient was initially given 
IV fluids and IV pain medications, and progressed to a regular 
diet and oral medications by POD#1. The patient was given 
perioperative antibiotics and subcutaneous heparin TID instead 
of Lovenox for anticoagulation due to her renal impairment. The 
patient's home medications were continued throughout this 
hospitalization, except that her mealtime insulin doses (20 
units Novolog TID) were decreased to account for decreased PO 
intake post-operatively (10 units Humalog TID) with a sliding 
scale. She was continued on home dose Lantus. The patient worked 
with ___ who determined that discharge to rehab was appropriate. 
The patient did have some increased serosanguinous incisional 
drainage so an incisional vac was placed on POD#3 and removed on 
POD#4 as there was no drainage. The hospital course was 
otherwise unremarkable.

At the time of discharge the patient was afebrile with stable 
vital signs that were within normal limits, pain was well 
controlled with oral medications, incisions were 
clean/dry/intact, and the patient was voiding/moving bowels 
spontaneously. The patient is WBAT in the left lower extremity, 
and will be discharged on 2 weeks of TID subcutaneous heparin 
for DVT prophylaxis. The patient will follow up in two weeks per 
routine. A thorough discussion was had with the patient's 
daughter regarding the diagnosis and expected post-discharge 
course, and all questions were answered prior to discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Glargine 90 Units Bedtime
Other 20 Units Breakfast
Other 20 Units Lunch
Other 20 Units Dinner
Insulin SC Sliding Scale using Novolog InsulinMax Dose Override 
Reason: home med

2. Aspirin 81 mg PO DAILY 
3. Valsartan 160 mg PO BID 
holf for SBP<100 
4. Metoprolol Succinate XL 200 mg PO DAILY 
hold for SBP<110, HR<60 
5. Amlodipine 10 mg PO DAILY 
6. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
7. Omeprazole 20 mg PO DAILY 
8. Furosemide 40 mg PO DAILY 
hold for SBP<100 
9. Atorvastatin 20 mg PO DAILY 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 20 mg PO DAILY 
4. Furosemide 40 mg PO DAILY 
5. Glargine 90 Units Bedtime
Humalog 10 Units Breakfast
Humalog 10 Units Lunch
Humalog 10 Units Dinner
Insulin SC Sliding Scale using HUM InsulinMax Dose Override 
Reason: home dose

6. Metoprolol Succinate XL 200 mg PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. Valsartan 160 mg PO BID 
9. Acetaminophen 650 mg PO TID 
10. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
11. Docusate Sodium 100 mg PO BID 
12. Milk of Magnesia 30 mL PO Q6H:PRN constipation 
13. Senna 1 TAB PO BID constipation 
14. OxycoDONE (Immediate Release)  2.5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth every four 
(4) hours Disp #*30 Tablet Refills:*0
15. Glucose Gel 15 g PO PRN hypoglycemia protocol 
16. Glucagon 1 mg IM Q15MIN:PRN hypoglycemia protocol 
17. Dextrose 50% 12.5 gm IV PRN hypoglycemia protocol 
18. Heparin 5000 UNIT SC TID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left subcapital femoral neck fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take lovenox 40mg daily for 2 weeks

WOUND CARE:
- You can get the wound wet/take a shower starting 3 days after 
your surgery.  You may wash gently with soap and water, and pat 
the incision dry after showering.  
- No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- BID dressing changes with dry sterile gauze. Keep incision 
clean. Dressing should be changed more often if there is 
significant draining from the wound.
- No dressing is needed if wound continues to be non-draining.

ACTIVITY AND WEIGHT BEARING:
- Weight bearing as tolerated
Physical Therapy:
Activity:   Activity:  Activity as tolerated Activity:  Ambulate 
twice daily if patient able
 Pneumatic boots
 Left lower extremity:  Full weight bearing
Encourage turn, cough and deep breathe q2h when awake

Treatments Frequency:
- You can get the wound wet/take a shower starting 3 days after 
your surgery.  You may wash gently with soap and water, and pat 
the incision dry after showering.  
- No baths or swimming for at least 4 weeks.
- Daily dry gauze dressing changes.
- Any stitches or staples should be removed 2-weeks after 
surgery or at the follow-up appointment, whichever comes first.
- No dressing is needed if wound continues to be non-draining.

DIABETES MANAGEMENT:
- The patient's home Lantus dose (90 units daily) was continued 
while she was in-house. Her mealtime Novolog dose (20 units TID 
at home) was decreased to 10 units TID post-operatively to 
accound for decreased PO intake after surgery. If her blood 
sugars are consistently elevated may increased mealtime dose by 
___ units per day until blood sugar is improved.
 
Followup Instructions:
___